US07786141B2
To a suspension of LAH (20 g, 0.526 mol) in dried THF (400 mL) was added dropwise a solution of (S)-methyl 5-oxo-1-((S)-1-phenylethyl)pyrrolidine-3-carboxylate (50 g, 0.202 mol) in dried THF (50 mL) at 0° C. The mixture was heated to reflux overnight. The reaction mixture was cooled to 0° C. and treated with water (20 mL) and aqueous NaOH (10%, 20 mL). The slurry formed was filtered off and washed with THF. The combined filtrate was evaporated to give compound ((S)-1-((S)-1-phenylethyl)pyrrolidin-3-yl)methanol, which was used directly in the next step.

reactant | LAH | 0.526 mol, 20 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (S)-methyl 5-oxo-1-((S)-1-phenylethyl)pyrrolidine-3-carboxylate | 0.202 mol, 50 g | O=C1C[C@@H](CN1[C@@H](C)C1=CC=CC=C1)C(=O)OC | C14H17NO3
reactant | water | 20 mL | O | H2O
reactant | NaOH | 20 mL | [OH-].[Na+]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ((S)-1-((S)-1-phenylethyl)pyrrolidin-3-yl)methanol | C1(=CC=CC=C1)[C@H](C)N1C[C@H](CC1)CO | C13H19NO
